US04054666
2'-Carbamoyl-3'-methoxyoxanilic acid. 48
2'-Carbamoyl-3'-methoxyoxanilic acid ethyl ester (1.33 g, 0.005 mole) is stirred in 50 ml water, and 5.0 ml of N NaOh is slowly added, giving a solution. After 1/2 hour the solution is filtered, and the filtrate is acidified to pH 2 with N HCl, giving 0.71 g of the title compound, m.p. 214°-215° C., after crystallization from ethanol.

reactant | 2'-Carbamoyl-3'-methoxyoxanilic acid ethyl ester | 0.005 mole, 1.33 g | CCOC(=O)C(=O)NC1=C(C(=CC=C1)OC)C(=O)N | C12H14N2O5
solvent | water | 50 ml | O | H2O
product | 2'-Carbamoyl-3'-methoxyoxanilic acid | 0.71 g | COC1=CC=CC(=C1C(=O)N)NC(=O)C(=O)O | C10H10N2O5
